US09034866B2
This compound was prepared according to a procedure similar to that described in Procedure A. 1-(3-Methylpyridin-2-yl)ethan-1-one. (3.2 g, 23.68 mmol, 1.00 equiv) was dissolved in 6 mL of THF under inert nitrogen atmosphere in a 100-mL 3-necked round-bottom flask. Then ethynylmagnesium bromide (2M in THF, 61 mL, 1.30 equiv) was added dropwise into the solution at 0° C. The resulting solution was stirred for 10 min and then allowed to rise to room temperature and stirred for additional 2 h. The reaction was then quenched by the addition of 20 mL of sat. aqueous NH4Cl and the resulting solution was extracted with 2×25 mL of ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum to get a residue, which was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5) to obtain 3.5 g (88%) of 2-(3-methylpyridin-2-yl)but-3-yn-2-ol as a light yellow solid.

reactant | 1-(3-Methylpyridin-2-yl)ethan-1-one | CC=1C(=NC=CC1)C(C)=O | C8H9NO
reactant | ethynylmagnesium bromide | 2M, 61 mL, 1.30 equiv | C(#C)[Mg]Br
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-(3-methylpyridin-2-yl)but-3-yn-2-ol | 3.5 g, 88% | CC=1C(=NC=CC1)C(C)(C#C)O | C10H11NO
